US07622501B2
Step 1: 4,5-bis(nitrooxy)pentyl (2Z)-4-hydroxy-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-en-1-yl carbonate
To a solution of 18 ml of phosgene (1.93 M /toluene) at −78° C. under N2, was added 3 g of 3,4-bis(nitrooxy)butyl alcohol. The resulted mixture was stirred at 25° C. for 24 h. Distillation of excess phosgene was done under low vacuum at 50° C. to afford 4.2 g of the desired compound as an orange oil. The crude compound was used directly in the next reaction. To a solution of 3.5 g of (2Z)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-en-1-ol, 1.0 g of DMAP and 1.8 mL of Hünig's base in 40 mL of CH2Cl2 at −78° C. was added 3.3 g of 4,5-bis(nitrooxy)pentyl chloridocarbonate. The reaction mixture was stirred for 2 h at 25° C. and then filtered through a pad of silica gel, washed with EtOAc and evaporated. Purification by flash chromatography afforded 5.4 g of the titled compound as a yellowish oil. The compound was used directly in the next step. To a solution of 5.4 g of 4,5-bis(nitrooxy)pentyl (2Z)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-en-1-yl carbonate in 50 mL of acetonitrile was added 2.5 mL of HF.pyr and the mixture was stirred at 25° C. for 1.5 h. The reaction mixture was diluted with 200 mL of toluene, loaded on silica gel and washed with EtOAc. Purification by flash chromatography afforded 4.6 g of the titled compound as a colorless oil. 1H NMR (acetone-d6, 500 MHz): δ 7.69 (d, 2H), 7.34 (d, 2H), 7.14-7.08 (m, 5H), 5.30 (s, 2H), 5.01 (dd, 1H), 4.73 (dd, 1H), 4.64 (d, 2H), 4.17-4.11 (m, 3H), 4.04 (q, 4H), 3.03 (s, 3H), 1.91-1.81 (m, 4H).

reactant | 4,5-bis(nitrooxy)pentyl (2Z)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-en-1-yl carbonate | 5.4 g | C(OCCCC(CO[N+](=O)[O-])O[N+](=O)[O-])(OC\C(=C(/CO[Si](C)(C)C(C)(C)C)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C)=O | C29H40N2O12SSi
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 4,5-bis(nitrooxy)pentyl (2Z)-4-hydroxy-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-en-1-yl carbonate | 4.6 g | C(OCCCC(CO[N+](=O)[O-])O[N+](=O)[O-])(OC\C(=C(/CO)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C)=O | C23H26N2O12S
